US04634713
A solution of 1.5 g of 1-(4-aminocyclohexyl)-3-ethylurea hydrochloride in 20 ml of methyl alcohol is treated with 0.36 g of sodium methoxide, to yield after usual workup 1-(4-aminocyclohexyl)-3-ethylurea as an oil which is used directly in the above condensation.

reactant | 1-(4-aminocyclohexyl)-3-ethylurea hydrochloride | 1.5 g | Cl.NC1CCC(CC1)NC(=O)NCC
reactant | sodium methoxide | 0.36 g | C[O-].[Na+]
solvent | methyl alcohol | 20 ml | CO | CH4O
product | 1-(4-aminocyclohexyl)-3-ethylurea | NC1CCC(CC1)NC(=O)NCC | C9H19N3O
